US07405299B2
Preparation of 2-[2-(Pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-oxazolo[4,5-b]pyridine
In a similar fashion to Example 8, react 2-amino-3-hydroxypyridine (Fluka; 144 mg, 1.3 mmol) and phosphorous oxychloride (4.4 mL) with 2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-carboxylic acid (Preparation 3; 250 mg, 1.1 mmol) to provide the title compound (74 mg, 22%) as a tan solid. Mp 182-184° C. MS ESI+ m/e 304 (M+1). 1H NMR (CDCl3) δ 8.75 (m, 1H), 8.52 (m, 1H), 8.12 (m, 1H), 7.84 (m, 1H), 7.69 (m, 1H), 7.32 (m, 1H), 7.15 (m, 1H), 4.31 (m, 2H), 7.37 (m, 2H), 2.75 (m, 2H). HPLC: 98.3%, Rt=13.95 min. TLC (SiO2): Rf0.4 (1:3 [80:18:2 chloroform/methanol/concentrated aqueous ammonium hydroxide]/dichloromethane).

reactant | 2-amino-3-hydroxypyridine | 1.3 mmol, 144 mg | NC1=NC=CC=C1O | C5H6N2O
reactant | phosphorous oxychloride | 4.4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-carboxylic acid | 1.1 mmol, 250 mg | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C(=O)O | C12H11N3O2
product | 2-[2-(Pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-oxazolo[4,5-b]pyridine | 74 mg, 22% | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C=2OC=1C(=NC=CC1)N2 | C17H13N5O
